US04535089
2.5 g of N-(4-chlorobenzoyl)isovalerylmethylamine, 0.5 g of 61% sodium hydride and 1.81 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(5). 2.5 g of ethyl 3-(4-chlorobenzoylamino)-3-isovalerylpropionate are thereby obtained. Yield: 74.4%.

reactant | N-(4-chlorobenzoyl)isovalerylmethylamine | 2.5 g | ClC1=CC=C(C(=O)NCC(CC(C)C)=O)C=C1 | C13H16ClNO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.81 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(4-chlorobenzoylamino)-3-isovalerylpropionate | 2.5 g, Yield: 74.4% | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(CC(C)C)=O)C=C1 | C17H22ClNO4
